US09302991B2
<Step-2>: 2-(cyclopropanecarboxamido)-5-fluoro-N-(1-(6-(2,2,2-trifluoroethoxy)pyridin-3-yl)ethyl)isonicotinamide (Example-102, single enantiomer)
The title compound is prepared in 11% yield (4.4 mg) from 2-amino-5-fluoro-N-(1-(6-(2,2,2-trifluoroethoxy)pyridin-3-yl)ethyl)isonicotinamide (34 mg, 0.095 mmol, Step-1, single enantiomer) and cyclopropanecarbonyl chloride (20 mg, 0.19 mmol) by the similar manner in Step-2 of Example-8.

reactant | 2-amino-5-fluoro-N-(1-(6-(2,2,2-trifluoroethoxy)pyridin-3-yl)ethyl)isonicotinamide | 0.095 mmol, 34 mg | NC=1C=C(C(=O)NC(C)C=2C=NC(=CC2)OCC(F)(F)F)C(=CN1)F | C15H14F4N4O2
reactant | cyclopropanecarbonyl chloride | 0.19 mmol, 20 mg | C1(CC1)C(=O)Cl | C4H5ClO
product | 2-(cyclopropanecarboxamido)-5-fluoro-N-(1-(6-(2,2,2-trifluoroethoxy)pyridin-3-yl)ethyl)isonicotinamide | 11% yield | C1(CC1)C(=O)NC=1C=C(C(=O)NC(C)C=2C=NC(=CC2)OCC(F)(F)F)C(=CN1)F | C19H18F4N4O3
